US05053509
The reaction is performed under the conditions of Example 16, but starting with 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.3 g) and (RS)-2-(3-fluorophenyl)piperazine (1.8 g). After 1 recrystallization in dimethylformamide (50 cc) containing ethanol (50%), (RS)-7-fluoro-8-[3-(3-fluorophenyl)-1-piperazinyl]-1-methyl-4-oxo -1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.74 g) is obtained in the form of a yellow solid, m.p. 254° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.3 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | (RS)-2-(3-fluorophenyl)piperazine | 1.8 g | FC=1C=C(C=CC1)C1NCCNC1 | C10H13FN2
product | (RS)-7-fluoro-8-[3-(3-fluorophenyl)-1-piperazinyl]-1-methyl-4-oxo -1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.74 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(NCC1)C1=CC(=CC=C1)F | C24H20F2N4O3
